US07179807B2
A solution of 2,6-dichloropyrazine (2.2 g) and 1-ethylpropylamine (5 mL) in EtOH (10 mL) is heated at 140° C. in a Teflon-sealed tube. The resulting solution is concentrated in vacuo, diluted by water, and extracted twice with hexane-ethyl ether. Combined extracts are dried (sodium sulfate), filtered, concentrated in vacuo, and the residue is filtered through a short pad of silica gel. The filtrate is concentrated to give 6-chloro-[N-(1-ethyl(propyl]pyrazine-2-amine as brownish oil that solidifies on standing (3.0 g).

reactant | 2,6-dichloropyrazine | 2.2 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 1-ethylpropylamine | 5 mL | C(C)C(CC)N | C5H13N
reactant | EtOH | 10 mL | CCO | C2H6O
product | 1-ethyl(propyl]pyrazine-2-amine | C(C)N1C(C(=NC=C1)CCC)N | C9H17N3
